US07981918B2
Add (4-Bromo-phenyl)-(4,4-difluoro-piperidin-1-yl)-methanone (3.0 g, 9.86 mmol), Bis(pinacolato)diborane (2.74 g, 10.7 mmol), Potassium acetate (2.9 g, 29 mmol), [1,1′-Bis(diphenylphosphino)-ferrocene]palladium(II) Chloride (0.804 g, 0.9 mmol) in DMSO (20 mL) and stir at 80° C. for 17 hours. Cool, dilute with ethyl acetate, wash with brine (5×), dry over sodium sulfate, filter and evaporate. Chromatography (silica, CH2Cl2/MeOH, 98:2) provides 1.7 g (47%) of (4,4-Difluoro-piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone.

reactant | (4-Bromo-phenyl)-(4,4-difluoro-piperidin-1-yl)-methanone | 9.86 mmol, 3.0 g | BrC1=CC=C(C=C1)C(=O)N1CCC(CC1)(F)F | C12H12BrF2NO
reactant | Bis(pinacolato)diborane | 10.7 mmol, 2.74 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Potassium acetate | 29 mmol, 2.9 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)-ferrocene]palladium(II) Chloride | 0.9 mmol, 0.804 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (4,4-Difluoro-piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | 1.7 g, 47% | FC1(CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C18H24BF2NO3
